US03994914
A solution was prepared of 2,4-dimethyl-4-isopropyl-5(bromomethylene)-2-oxazolinium bromide in ethanol and allowed to stand at room temperature. The solvent gradually evaporated and the solid residue was recrystallized from ethanol to yield 1-bromo-3,4-dimethyl-3-amino-2-pentanone hydrobromide having a melting point of about 158°-160° C. The material was identified by the n.m.r. spectrum.

reactant | 2,4-dimethyl-4-isopropyl-5(bromomethylene)-2-oxazolinium bromide | [Br-].CC=1OC(C([NH+]1)(C(C)C)C)=CBr
solvent | ethanol | C(C)O | C2H6O
product | 1-bromo-3,4-dimethyl-3-amino-2-pentanone hydrobromide | Br.BrCC(C(C(C)C)(N)C)=O | InChI=1S/C7H14BrNO.BrH/c1-5(2)7(3,9)6(10)4-8;/h5H,4,9H2,1-3H3;1H
